### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/PartialFractions): generalize to powers

### PR DESCRIPTION
**Pull request by plp127**
Generalize polynomial partial fractions to work with the denominator being a product of powers of coprime monic polynomials.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/PartialFractions.lean [hunk 1]
```diff
@@ -45,11 +45,141 @@ of Patrick Massot.
...
 
-open Polynomial
+namespace Polynomial
 
-variable (K : Type*) [Field K] [Algebra R[X] K] [IsFractionRing R[X] K]
+section Mul
+
+section OneDenominator
+
+theorem eq_quo_mul_pow_add_sum_rem_mul_pow (f : R[X]) {g : R[X]} (hg : g.Monic)
```
Comment (vihdzp) [inline Mathlib/Algebra/Polynomial/PartialFractions.lean:89]: I don't think I understand this file's naming scheme at all. Could you document this in the module docstring, or better yet, replace the names by more Mathlib-compliant ones?

File: Mathlib/Algebra/Polynomial/PartialFractions.lean [hunk 2]
```diff
@@ -45,11 +45,141 @@ of Patrick Massot.
...
+  rw [add_mul, add_assoc, add_right_inj, Finset.sum_mul, ← Finset.sum_add_distrib]
+  refine Finset.sum_congr rfl fun i hi => ?_
+  rw [← Finset.mul_prod_erase s _ hi, hr i hi, add_mul, Finset.sum_mul, mul_assoc]
+
+end ManyDenominators
+
+end Mul
+
+section Div
+variable {K : Type*} [CommRing K] [Algebra R[X] K]
```
Comment (vihdzp) [inline Mathlib/Algebra/Polynomial/PartialFractions.lean:188]: This seems like a weird instance, under what circumstances do you have an algebra over R[X]?

**Review by vihdzp — COMMENTED** [review]
I'll give a proper review in a few hours, once I'm on my laptop.

File: Mathlib/Algebra/Polynomial/PartialFractions.lean (hunk 2 above)
Comment (plp127) [reply Mathlib/Algebra/Polynomial/PartialFractions.lean:188]: For example, `RatFunc` or `Localization`.

File: Mathlib/Algebra/Polynomial/PartialFractions.lean
Comment (vihdzp) [inline Mathlib/Algebra/Polynomial/PartialFractions.lean]: Perhaps unrelated to this PR, but can't you make the tactic imports private?

File: Mathlib/Algebra/Polynomial/PartialFractions.lean [hunk 3]
```diff
@@ -45,11 +45,141 @@ of Patrick Massot.
 public section
 
 
-variable (R : Type*) [CommRing R] [IsDomain R]
+variable {R : Type*} [CommRing R] [Nontrivial R]
```
Comment (vihdzp) [inline Mathlib/Algebra/Polynomial/PartialFractions.lean:78]: A lot of docstrings mention the domain hypothesis, can you make sure to update them?

File: Mathlib/Algebra/Polynomial/PartialFractions.lean [hunk 4]
```diff
@@ -45,11 +45,139 @@ of Patrick Massot.
...
+namespace Polynomial
 
-variable (K : Type*) [Field K] [Algebra R[X] K] [IsFractionRing R[X] K]
+section Mul
+
+section OneDenominator
+
+theorem eq_quo_mul_pow_add_sum_rem_mul_pow (f : R[X]) {g : R[X]} (hg : g.Monic)
+    (n : ℕ) : ∃ (q : R[X]) (r : Fin n → R[X]), (∀ i, (r i).degree < g.degree) ∧
+      f = q * g ^ n + ∑ i, r i * g ^ i.1 := by
```
Comment (vihdzp) [inline Mathlib/Algebra/Polynomial/PartialFractions.lean:91]: This theorem feels like it's a theorem on `R[X][Y]`, do you gain anything from this restatement?

File: Mathlib/Algebra/Polynomial/PartialFractions.lean [hunk 5]
```diff
@@ -45,11 +45,139 @@ of Patrick Massot.
...
+      simp
+
+end OneDenominator
+
+section ManyDenominators
+
+theorem eq_quo_mul_prod_add_sum_rem_mul_prod {ι : Type*} [DecidableEq ι] {s : Finset ι}
+    (f : R[X]) {g : ι → R[X]} (hg : ∀ i ∈ s, (g i).Monic)
+    (hgg : Set.Pairwise s fun i j => IsCoprime (g i) (g j)) :
+    ∃ (q : R[X]) (r : (i : ι) → R[X]),
```
Comment (vihdzp) [inline Mathlib/Algebra/Polynomial/PartialFractions.lean]:
```suggestion
    ∃ (q : R[X]) (r : ι → R[X]),
```

File: Mathlib/Algebra/Polynomial/PartialFractions.lean [hunk 6]
```diff
@@ -45,11 +45,139 @@ of Patrick Massot.
...
+    · rw [Fin.sum_univ_castSucc, ← add_rotate', Fin.snoc_last, Fin.val_last,
+        ← add_assoc, pow_succ', ← mul_assoc, ← add_mul, mul_comm (q /ₘ g) g,
+        modByMonic_add_div q hg]
+      simp
+
+end OneDenominator
+
+section ManyDenominators
+
+theorem eq_quo_mul_prod_add_sum_rem_mul_prod {ι : Type*} [DecidableEq ι] {s : Finset ι}
```
Comment (vihdzp) [inline Mathlib/Algebra/Polynomial/PartialFractions.lean:113]: Could you leave a docstring explaining how this result is equivalent to the result on partial fractions, after clearing denominators? Took me a while to figure out what was happening here.

**Review by vihdzp — COMMENTED** [review]
(I'm a bit out of my depth here, but I'm trying my best)

File: Mathlib/Algebra/Polynomial/PartialFractions.lean
Comment (vihdzp) [inline Mathlib/Algebra/Polynomial/PartialFractions.lean]: Speaking of docstrings, we should probably stick to Lean notation here
```suggestion
  If f, g₁, g₂, ..., gₙ : R[X] and the gᵢs are all monic and pairwise coprime, then ∃ q, r₁, ..., rₙ
```

Comment (vihdzp) [inline Mathlib/Algebra/Polynomial/PartialFractions.lean]: Is this still what's going on? From what I understand you're now proving the n-denominator case directly.

File: Mathlib/Algebra/Polynomial/PartialFractions.lean [hunk 7]
```diff
@@ -45,11 +45,139 @@ of Patrick Massot.
...
+section Div
+variable {K : Type*} [CommRing K] [Algebra R[X] K]
+
+theorem mul_prod_pow_invOf_eq_quo_add_sum_rem_mul_pow_invOf {ι : Type*} {s : Finset ι}
+    (f : R[X]) {g : ι → R[X]} (hg : ∀ i ∈ s, (g i).Monic)
+    (hgg : Set.Pairwise s fun i j => IsCoprime (g i) (g j))
+    (n : ι → ℕ) {gi : ι → K} (hgi : ∀ i ∈ s, gi i * algebraMap R[X] K (g i) = 1) :
+    ∃ (q : R[X]) (r : (i : ι) → Fin (n i) → R[X]),
+      (∀ i ∈ s, ∀ j, (r i j).degree < (g i).degree) ∧
+      algebraMap R[X] K f * ∏ i ∈ s, gi i ^ (n i) =
```
Comment (vihdzp) [inline Mathlib/Algebra/Polynomial/PartialFractions.lean]:
```suggestion
      algebraMap R[X] K f * ∏ i ∈ s, gi i ^ n i =
```

File: Mathlib/Algebra/Polynomial/PartialFractions.lean (hunk 4 above)
Comment (plp127) [reply Mathlib/Algebra/Polynomial/PartialFractions.lean:91]: I don't see it. What's the corresponding statement on `R[X][Y]`?

File: Mathlib/Algebra/Polynomial/PartialFractions.lean
Comment (vihdzp) [inline Mathlib/Algebra/Polynomial/PartialFractions.lean]: Now that you're not using this to prove `div_eq_quo_add_sum_rem_div`, can you turn it into a special case?

File: Mathlib/Algebra/Polynomial/PartialFractions.lean (hunk 6 above)
Comment (plp127) [reply Mathlib/Algebra/Polynomial/PartialFractions.lean:113]: I am planning to come up with docstrings for all the new theorems, and also update the module docstring as well.

File: Mathlib/Algebra/Polynomial/PartialFractions.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/Algebra/Polynomial/PartialFractions.lean:91]: Isn't `q * g ^ n + ∑ i, r i * g ^ i.1` a two-variable polynomial evaluated on `g`?

**Review by riccardobrasca — COMMENTED** [review]
This decomposition is unique, right? (At least over a field). Does it make sense to add uniqueness?

**Comment by riccardobrasca** [comment]
This looks more or less good to me. Concerning the question asked by @vihdzp about names I honestly don't know... it seems difficult to find reasonable names in this case. @vihdzp you have concrete suggestions?
